US07262200B2
6-[5-Amino-6-(5-cyclopropyl-2H-pyrazol-3-ylamino)-pyrimidin-4-ylamino]-1,2-dihydro-indazol-3-one
To a solution of (6-chloro-5-nitro-pyrimidin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine (50 mg, 0.18 mmol) in anhydrous THF (2 mL) was added 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester (67 mg, 0.27 mmol) and diisopropylethylamine (23 mg, 0.18 mmol). The mixture was stirred at RT for 14 hrs and the solvents were removed under vacuum. The residue was dissolved in CH2Cl2 (3 mL) and treated with TFA (2 mL) at RT for 2 hrs. After removal of the solvents via evaporation, the residue was reduced by hydrogen (50 psi) in MeOH (10 mL) in the presence of Pd/C (10%, 50 mg) for 3 hrs. The solution was filtered via celite, the filtrate was evaporated under vacuum, and the residue was purified by HPLC to give the desired product as white solid (22 mg). NMR (500 MHz, DMSO-d6) δ11.16 (br, 1H), 9.92 (br, 1H), 8.98 (s, 1H), 8.27 (s, 1H), 7.67 (s, 1H), 7.55 (d, 1H), 7.08 (d, 1H), 5.95 (s, 1H), 2.00 (m, 1H), 1.06 (m, 2H), 0.81 (m, 2H) ppm. MS (ES+): m/e=364.3 (M+H); LC/Method A/2.45 min.

reactant | (6-chloro-5-nitro-pyrimidin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 0.18 mmol, 50 mg | ClC1=C(C(=NC=N1)NC=1NN=C(C1)C1CC1)[N+](=O)[O-] | C10H9ClN6O2
reactant | 6-amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester | 0.27 mmol, 67 mg | C(C)(C)(C)OC(=O)N1NC(C2=CC=C(C=C12)N)=O | C12H15N3O3
reactant | diisopropylethylamine | 0.18 mmol, 23 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-[5-Amino-6-(5-cyclopropyl-2H-pyrazol-3-ylamino)-pyrimidin-4-ylamino]-1,2-dihydro-indazol-3-one | 22 mg | NC=1C(=NC=NC1NC=1NN=C(C1)C1CC1)NC1=CC=C2C(NNC2=C1)=O | C17H17N9O
